US04217292
Dicyclohexylamine and molybdenum trioxide were reacted together in the following manner to form a dicyclohexylamine molybdate with a 2/1 molybdenum/dicyclohexylamine molar ratio. 10.00 grams of dicyclohexylamine, 15.88 grams of molybdenum trioxide, 10.94 grams of ammonium sulfate and 300 milliliters of water were charged into a 500 milliliter round-bottom flask equipped with a water-cooled condenser.

reactant | Dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | molybdenum trioxide | [Mo](=O)(=O)=O
product | molybdenum dicyclohexylamine | [Mo].C1(CCCCC1)NC1CCCCC1 | InChI=1S/C12H23N.Mo/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;/h11-13H,1-10H2;
